US06979690B2
Step 2. 6-Amino-5-iodo-2-(methyloxy)-3-pyridinecarboxylic acid
To a solution of methyl 6-amino-5-iodo-2-(methyloxy)-3-pyridinecarboxylate (1.4 g, 4.54 mmol) in methanol (30 ml), 1M aqueous lithium hydroxide (9 ml, 9 mmol) was added and the mixture was heated at 70° C. for 2 h. After cooling to room temperature, the mixture was concentrated in vacuo to give a solid. The residual solid was dissolved in water (50 ml) and acidified (pH=5) by addition of 2N aqueous hydrochloric acid. The resultant solid was collected by filtration, washed with water and dried in vacuo under 60° C. to give 1.3 g (92%) of the title compound.

reactant | methyl 6-amino-5-iodo-2-(methyloxy)-3-pyridinecarboxylate | 4.54 mmol, 1.4 g | NC1=C(C=C(C(=N1)OC)C(=O)OC)I | C8H9IN2O3
reactant | lithium hydroxide | 9 mmol, 1M, 9 ml | [OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 6-Amino-5-iodo-2-(methyloxy)-3-pyridinecarboxylic acid | 1.3 g, 92% | NC1=C(C=C(C(=N1)OC)C(=O)O)I | C7H7IN2O3
